US08633189B2
To a flask charged with 2-cyclopentenyl-4-fluoro-1-methoxybenzene (1500 mg, 4.68 mmol) and 10% Pd/C (50 mg) under inert atmosphere was added methanol. The reaction was stirred under H2 atmosphere for 16 h, then filtered and concentrated. Purification by silica gel chromatography (0-30% ethyl acetate/hexanes) provided 2-cyclopentyl-4-fluoro-1-methoxybenzene (800 mg, 88% yield). 1H NMR (400.0 MHz, DMSO-d6) δ 6.96 (dd, J=3.0, 9.9 Hz, 1H), 6.88-6.76 (m, 2H), 3.83 (s, 3H), 3.35 (q, J=8.5 Hz, 1H), 2.09-2.01 (m, 2H), 1.86-1.66 (m, 4H), 1.59-1.50 (m, 2H).

reactant | 2-cyclopentenyl-4-fluoro-1-methoxybenzene | 4.68 mmol, 1500 mg | C1(=CCCC1)C1=C(C=CC(=C1)F)OC | C12H13FO
catalyst | Pd/C | 50 mg | [Pd] | Pd
solvent | methanol | CO | CH4O
product | 2-cyclopentyl-4-fluoro-1-methoxybenzene | 800 mg, 88% yield | C1(CCCC1)C1=C(C=CC(=C1)F)OC | C12H15FO
